US08314239B2
To a solution of 5-methyl-4-oxo-1H-quinoline-3-carboxylic acid (60 mg, 0.2953 mmol) and 6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methyl-pyridin-3-amine (60.03 mg, 0.2953 mmol) in 2-methyltetrahydrofuran (1 mL) was added propyl phosphonic acid cyclic anhydride (375.8 μL of 50% w/v, 0.5906 mmol) followed by pyridine (46.72 mg, 47.77 μL, 0.5906 mmol). The mixture was irradiated under microwave conditions for 1 h at 100° C. The crude reaction mixture was diluted with ethyl acetate (2 mL) and quenched with 10% NaHCO3 solution (3 mL). The resulting precipitate was filtered and washed with ethyl acetate (5 mL). The solid was resuspended in 20% aqueous Na2CO3 (5 mL)/methanol (2 mL) and stirred for 30 min. The solid was filtered, rinsed with water and air dried to provide N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide (30 mg, 26% yield). LC/MS m/z 389.4 [M+H]+, retention time 1.33 min (RP-C18, 10-99% CH3CN/0.05% TFA over 3 min).

reactant | 5-methyl-4-oxo-1H-quinoline-3-carboxylic acid | 0.2953 mmol, 60 mg | CC1=C2C(C(=CNC2=CC=C1)C(=O)O)=O | C11H9NO3
reactant | 6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methyl-pyridin-3-amine | 0.2953 mmol, 60.03 mg | C12CCC(CC1)N2C2=CC(=C(C=N2)N)C | C12H17N3
reactant | pyridine | 0.5906 mmol, 47.77 μL, 46.72 mg | N1=CC=CC=C1 | C5H5N
solvent | 2-methyltetrahydrofuran | 1 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | 30 mg, 26% yield | C12CCC(CC1)N2C2=CC(=C(C=N2)NC(=O)C2=CNC1=CC=CC(=C1C2=O)C)C | C23H24N4O2
